US03997545
Reaction of methyl 2-amino-5-chlorothiophene-3-carboxylate with diethyl ethoxymethylenemalonate in a similar manner to that used in Reference Example 10 yields diethyl (5-chloro-3-methoxycarbonylthienyl)aminomethylenemalonate as crystals melting at 89.5°-90.5° C.

reactant | methyl 2-amino-5-chlorothiophene-3-carboxylate | NC=1SC(=CC1C(=O)OC)Cl | C6H6ClNO2S
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl (5-chloro-3-methoxycarbonylthienyl)aminomethylenemalonate | ClC1=CC(=C(S1)NC=C(C(=O)OCC)C(=O)OCC)C(=O)OC | C14H16ClNO6S
